US04678787
7-[4-(4-Phenyl-1-piperazinyl)butoxy]-4H-1-benzopyran-4-one
The title compound was prepared by the method described above in Examples 1-3. Thus, 7-(4-chlorobutoxy)-4H-1-benzopyran-4-one, as prepared above in Preparation 2, (3.79 g, 15 mmol) was treated with 1-phenylpiperazine (2.59 g; 16 mmol) in the usual way, yielding 3.76 g of 7-[4-(4-phenyl-1-piperazinyl)butoxy-]4H-1-benzopan-4-one.1.5 HCL (H2O), mp 204°-206° C.

reactant | 7-(4-chlorobutoxy)-4H-1-benzopyran-4-one | ClCCCCOC1=CC2=C(C(C=CO2)=O)C=C1 | C13H13ClO3
reactant | 1-phenylpiperazine | 16 mmol, 2.59 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | H2O | O | H2O
product | 7-[4-(4-Phenyl-1-piperazinyl)butoxy]-4H-1-benzopyran-4-one | C1(=CC=CC=C1)N1CCN(CC1)CCCCOC1=CC2=C(C(C=CO2)=O)C=C1 | C23H26N2O3
